US05948770
(S)-1-Benzyloxy-butan-2-ol
To a mixture of the benzyl ether above (44 g, 0.268 mol) and CuI (51 g, 0.268 mol) in anhydrous THF (1 L) was slowly added MeMgI (270 mL of a 3 M THF solution, 0.810 mol) at -78° C. The mixture was stirred at -78° C. for 4 hours and was warmed to room temperature. After aqueous work-up (CH2Cl2) and chromatography, 47.0 g of the title compound was obtained: [α]25D +8.2° (c 1.2, CHCl3). IR: 3428. 1H NMR (CDCl3): δ0.94 (3H, t, J=7.5), 1.47 (2H, m), 2.38 (1H, br), 3.32 (1H, dd, J=8.0, 9.3), 3.50 (1H, dd, J=2.9, 9.3), 3.73 (1H, m), 4.54 (2H, s), 7.26-7.36 (5H, m). 13C NMR (CDCl3): δ9.8, 26.1, 71.7, 73.3, 74.3, 127.7, 127.7, 128.4, 138.0. HRMS (EI) calcd for C11H16O2 180.1150, found 180.1145.

reactant | benzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
reactant | MeMgI | C[Mg]I
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | THF | 1 L | C1CCOC1 | C4H8O
reactant | THF | 3 M | C1CCOC1 | C4H8O
catalyst | CuI | 0.268 mol, 51 g | [Cu]I
product | (S)-1-Benzyloxy-butan-2-ol | 47.0 g | C(C1=CC=CC=C1)OC[C@H](CC)O | C11H16O2
